US07439246B2
D) 3-Fluoro-4-(3-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine
To a solution of 4-(2-fluoro-4-nitrophenoxy)-3-(pyridin-4-yl)-1-((2-(trimethylsilyl)ethoxy)methyl-1H-pyrrolo[2,3-b]pyridine (237 mg, 0.49 mmol) in a mixed solvent (8 mL of MeOH and 4 mL of THF) were added ammonium chloride (131 mg, 2.49 mmol, EMC) and zinc dust (163 mg, 2.49 mmol, Aldrich). The reaction mixture was stirred at room temperature for 3 h, diluted with EtOAc (40 mL), and filtered through a pad of Celite®. The filtrate was concentrated in vacuo to give a solid. MS(ESI+) m/z 451.3 (M+H)+. The solid was dissolved in 15 mL of THF and treated with TBAF (4 mL, 1.0 M solution in THF, Aldrich) and ethane-1,2-diamine (0.4 mL, Aldrich). The reaction mixture was refluxed for 16 h, cooled to room temperature, diluted with EtOAc, washed with brine, dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, eluting with 2-5% MeOH in dichloromethane) to afford the desired product (127 mg, 81% for two steps). MS(ESI+) m/z 321.2 (M+H)+.

reactant | (2-(trimethylsilyl)ethoxy)methyl-1H-pyrrolo[2,3-b]pyridine | 0.49 mmol, 237 mg | C[Si](CCOCN1C=CC=2C1=NC=CC2)(C)C | C13H20N2OSi
reactant | ammonium chloride | 2.49 mmol, 131 mg | [Cl-].[NH4+]
reactant | TBAF | 1.0 M, 4 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ethane-1,2-diamine | 0.4 mL | C(CN)N | C2H8N2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | zinc | 2.49 mmol, 163 mg | [Zn] | Zn
solvent | MeOH | 8 mL | CO | CH4O
product | 3-Fluoro-4-(3-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy)benzenamine | 127 mg, 81% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NC=C2C2=CC=NC=C2)N | C18H13FN4O
